US07687533B2
N-{5-amino-3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}-N-(2,2,2-trifluoroethyl)methanesulfonamide
To a solution of N-(3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-{[(dimethylamino)methylene]amino}-1H-pyrazol-4-yl)methanesulfonamide (250 mg, 0.53 mmol) in 1-methyl-2-pyrrolidinone (anhydrous, 5 ml) was added sodium hydride (60% in oil, 16.6 mg, 0.69 mmol) and 2,2,2-trifluoroethyl trichloromethanesulphonate (195 mg, 0.69 mmol). The reaction mixture was then stirred at room temperature for 3 h. To the reaction mixture was added dichloromethane (20 ml) and the resulting mixture was extracted with water (20 ml). The organic phase was washed with water (2×20 ml) and brine (2×20 ml), dried (Na2SO4) and concentrated in vacuo. To the residue was added methanol (5 ml) and hydrochloric acid (4M, 3 ml) and the mixture was heated at reflux for 60 h. The reaction mixture was concentrated in vacuo and to the residue was added ethyl acetate (20 ml) and water (20 ml). The organic phase was separated, washed with water (2×20 ml) and brine (2×20 ml), dried (Na2SO4) and concentrated in vacuo. The crude product was dissolved in acetonitrile/dimethyl sulphoxide/water (1:4:1, 6 ml) and purified by automated preparative liquid chromatography (Gilson system, 150 mm×30 mm Phenomonex LUNA C18(2) 10 μm column) using an acetonitrile:water gradient [52.5:47.5 to 95:5]. The appropriate fractions were concentrated in vacuo to give the titled compound (135 mg).

reactant | N-(3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-{[(dimethylamino)methylene]amino}-1H-pyrazol-4-yl)methanesulfonamide | 0.53 mmol, 250 mg | C(#N)C1=NN(C(=C1NS(=O)(=O)C)N=CN(C)C)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H13Cl2F3N6O2S
reactant | sodium hydride | 0.69 mmol, 16.6 mg | [H-].[Na+]
reactant | 2,2,2-trifluoroethyl trichloromethanesulphonate | 0.69 mmol, 195 mg | ClC(S(=O)(=O)OCC(F)(F)F)(Cl)Cl | C3H2Cl3F3O3S
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | 1-methyl-2-pyrrolidinone | 5 ml | CN1C(CCC1)=O | C5H9NO
product | N-{5-amino-3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}-N-(2,2,2-trifluoroethyl)methanesulfonamide | 135 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)N(S(=O)(=O)C)CC(F)(F)F | C14H9Cl2F6N5O2S
